US06821967B2
9-{4-[4-(5-chloro-quinolin-2-yl)-cis-2,6-dimethyl-piperazin-1-yl]-butyl}-9H-fluorene-9-carboxylic acid-4-fluoro-benzylamide
Prepared analogously to Example 1 from 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-4-fluoro-benzylamide and 5-chloro-2-(cis-3,5-dimethyl-piperazin-1-yl)-quinoline.

reactant | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-4-fluoro-benzylamide | FC1=CC=C(CNC(=O)C2(C3=CC=CC=C3C=3C=CC=CC23)CCCCBr)C=C1 | C25H23BrFNO
reactant | 5-chloro-2-(cis-3,5-dimethyl-piperazin-1-yl)-quinoline | ClC1=C2C=CC(=NC2=CC=C1)N1C[C@H](N[C@H](C1)C)C | C15H18ClN3
product | 9-{4-[4-(5-chloro-quinolin-2-yl)-cis-2,6-dimethyl-piperazin-1-yl]-butyl}-9H-fluorene-9-carboxylic acid-4-fluoro-benzylamide | FC1=CC=C(CNC(=O)C2(C3=CC=CC=C3C=3C=CC=CC23)CCCCN2[C@H](CN(C[C@H]2C)C2=NC3=CC=CC(=C3C=C2)Cl)C)C=C1 | C40H40ClFN4O
